US05057517
5-Amino-4,6-dichloro-2-ethylpyrimidine
4,6-Dichloro-5-nitro-2-ethylpyrimidine (185 g, 0.83 mol) was dissolved in methanol (1.5 L) and reduced under 15 p.s.i. H2 in the presence of Raney nickel (30 g) for 5 hr. The mixture was filtered through Celite (washing well with MeOH) and the filtrate was evaporated to dryness to give 159.1 g (0.83 mol, quantitative yield) of the title compound as a chromatographically pure (silica gel plates, developed with EtOAc:hexanes, 3:1) dark liquid which was used directly in the next step.

reactant | 4,6-Dichloro-5-nitro-2-ethylpyrimidine | 0.83 mol, 185 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)CC | C6H5Cl2N3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 1.5 L | CO | CH4O
catalyst | Raney nickel | 30 g | [Ni] | Ni
product | 5-Amino-4,6-dichloro-2-ethylpyrimidine | 0.83 mol, 159.1 g, quantitative yield | NC=1C(=NC(=NC1Cl)CC)Cl | C6H7Cl2N3
